US07435731B2
Step 2 Preparation of pyridine-2-carboxylic acid [3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-amide
Pyridine-2-carboxylic acid (78 mg, 0.64 mmol) was placed in 5 ml thionyl chloride and refluxed for 3 hours. Excess thionyl chloride was then removed in vacuo and the crude acid chloride was suspended in 2 ml anhydrous tetrahydrofuran. The solution of acid chloride was added to a mixture of 3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine (190 mg, 0.64 mmol) and diisopropylamine (247 mg, 1.92 mmol) in 6 ml anhydrous tetrahydrofuran. The reaction mixture was refluxed for 15 h. After cooling to room temperature the resulting mixture was partition between 60 ml ethylacetate and 15 ml brine. The organic layer was washed 3 times with 3N HCl, next with saturated sodium bicarbonate solution and brine. After drying with sodium sulfate and solvent evaporation in vacuo, 140 mg of pyridine-2-carboxylic acid [3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-amide, MS: 397.1 (M+H), was obtained.

reactant | Pyridine-2-carboxylic acid | 0.64 mmol, 78 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-4-ylamine | 0.64 mmol, 190 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)N)SC | C12H10ClN5S
reactant | diisopropylamine | 1.92 mmol, 247 mg | C(C)(C)NC(C)C | C6H15N
solvent | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | pyridine-2-carboxylic acid [3-(2-chloro-phenyl)-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-amide | ClC1=C(C=CC=C1)C1=NNC2=NC(=NC(=C21)NC(=O)C2=NC=CC=C2)SC | C18H13ClN6OS
